US07067517B2
tert-Butyl-methyl-carbamic acid 4-(5trifluoromethyl-pyridin-2-yloxy)-phenyl ester
The title compound was prepared from 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenol and 3-(tert-Butyl-methyl-carbamoyl)-1-methyl-3H-imidazol-1-ium iodide. The crude product was subjected to preparative HPLC (34%, white crystals). HPLC-MS m/z=369.1 (M+1), Rt: 5.17 min.

reactant | 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenol | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)O)(F)F | C12H8F3NO2
reactant | 3-(tert-Butyl-methyl-carbamoyl)-1-methyl-3H-imidazol-1-ium iodide | [I-].C(C)(C)(C)N(C(=O)N1C=[N+](C=C1)C)C
product | tert-Butyl-methyl-carbamic acid 4-(5trifluoromethyl-pyridin-2-yloxy)-phenyl ester | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)OC(N(C)C(C)(C)C)=O)(F)F | C18H19F3N2O3
